US08912188B2
To a solution of 5-fluorobenzofuran (10 g, 73.53 mmol) in dry tetrahydrofuran (250 mL) were added tetramethylethylenediamine (10.2 g, 87.93 mmol). The solution was kept below −60° C. under nitrogen, while BuLi (93.75 mmol, 2.5M solution in hexane) was added dropwise. It was warmed to −10° C. during 45 min and stirred at this temperature for another 30 min. The mixture was cooled again below −60° C. followed by dropwise addition of triisopropyl borate (41.4 g, 220.21 mmol). After warming to room temperature the mixture was quenched with hydrochloric acid (70 mL, 2N) and stirred for 1 h. The alkaline aqueous layer was brought to pH 5 and extracted with ethyl acetate (3×80 mL). All organic layers were combined, dried over sodium sulfate, and concentrated in vacuo to give 5-fluorobenzofuran-2-ylboronic acid (3.5 g, 26%) which was used for the next step without further purification.

reactant | 5-fluorobenzofuran | 73.53 mmol, 10 g | FC=1C=CC2=C(C=CO2)C1 | C8H5FO
reactant | tetramethylethylenediamine | 87.93 mmol, 10.2 g | CN(CCN(C)C)C | C6H16N2
reactant | BuLi | 93.75 mmol, 2.5M | [Li]CCCC
reactant | triisopropyl borate | 220.21 mmol, 41.4 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 5-fluorobenzofuran-2-ylboronic acid | 3.5 g, 26% | FC=1C=CC2=C(C=C(O2)B(O)O)C1 | C8H6BFO3
